US06828317B2
N-{3-[3-Fluoro-4-(6-(2-hydroxyethyl)-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide
Prepared from 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-6-(2-hydroxyethyl)-4H-[1,3,4]thiadiazin-5-one, trifluoroacetate salt according to the method of Example 2 (0.021 g, 31%). MS (m/z): [M+H]+=411. A second acetylation product is isolated and identified as acetic acid 2-(2-{4-[5(S)-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H[1,3,4]thiadiazin-6-yl)-ethyl ester (0.025 g, 37%); 1H NMR (300 MHz, DMSO-d6) δ 1.83-1.91 (m, 1H), 2.00 (s, 3H), 2.06-2.14 (m, 1H), 3.43 (t, J=5.4 Hz, 2H), 3.74-3.83 (m, 2H), 4.08-4.18 (m, 3H), 7.43 (dd, J=2.1, 8.7 Hz, 1H), 7.59 (dd, J=1.8, 13.5 Hz, 1H), 7.69 (t, J=8.7 Hz, 1H), 8.26 (t, J=5.7 Hz, 1H); mp 223-4; MS (m/z): [M+H]+=453.

reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-6-(2-hydroxyethyl)-4H-[1,3,4]thiadiazin-5-one, trifluoroacetate salt | FC(C(=O)O)(F)F.NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SC(C(NN1)=O)CCO)F
reactant | acetic acid 2-(2-{4-[5(S)-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H[1,3,4]thiadiazin-6-yl)-ethyl ester | 0.025 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SC(C(NN1)=O)CCOC(C)=O)F | C19H21FN4O6S
product | N-{3-[3-Fluoro-4-(6-(2-hydroxyethyl)-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide | FC=1C=C(C=CC1C=1SC(C(NN1)=O)CCO)N1C(O[C@H](C1)CNC(C)=O)=O | C17H19FN4O5S
